US03975373
a. Preparation of cyclohexanone-helveticoside
1.5 g. helveticoside are dissolved in 20 ml. cyclohexanone diethylketal and mixed with 1.5 g. of a cation exchanger in the H+ form (e.g. the ion exchanger known by the trade name of Lewatit S 100). The mixture is heated to 55°C while stirring, and the course of the reaction is followed by thin-layer chromatography. After about 4 hours of reaction no more helveticoside can be detected. The ion exchanger is filtered off and the solvent distilled off from the filtrate in a rotating evaporator under vacuum from a water pump. The residue is triturated with petroleum ether. Yield: 850 mg. cyclohexanone-helveticoside.

reactant | helveticoside | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@@]3([C@H]4CC[C@@]5([C@H](CC[C@@]5([C@@H]4CC[C@@]3(C2)O)O)C6=CC(=O)OC6)C)C=O)O)O | C29H42O9
reactant | cyclohexanone diethylketal | C(C)OC1(CCCCC1)OCC | C10H20O2
product | cyclohexanone helveticoside | C1(CCCCC1)=O.C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@@]3([C@H]4CC[C@@]5([C@H](CC[C@@]5([C@@H]4CC[C@@]3(C2)O)O)C6=CC(=O)OC6)C)C=O)O)O | InChI=1S/C29H42O9.C6H10O/c1-16-25(33)22(31)12-24(37-16)38-18-3-8-27(15-30)20-4-7-26(2)19(17-11-23(32)36-14-17)6-10-29(26,35)21(20)5-9-28(27,34)13-18;7-6-4-2-1-3-5-6/h11,15-16,18-22,24-25,31,33-35H,3-10,12-14H2,1-2H3;1-5H2/t16-,18+,19-,20+,21-,22+,24+,25-,26-,27+,28+,29+;/m1./s1
